US07229998B2
[4-([1,1′-Biphenyl]-4-ylmethyl)-2-(4-{trifluoromethyl}phenyl)-1,3-thiazol-5-yl]methanol
To a stirred solution of [4-(4-Bromobenzyl)-2-(4-{trifluoromethyl}phenyl)-1,3-thiazol-5-yl]methanol (0.33 g, 0.78 mmoles, 1 eq) in dry 1,2-dimethoxyethane (5 ml, 0.16M) was added tetrakis(triphenylphosphino) palladium I (0.45 g, 0.39 mmoles, 0.5 eq) and stirred for 5 minutes at room temperature. Phenylboronic acid (0.143 g, 1.2 mmoles, 1.5 eq) was then added followed by the addition of sodium carbonate (2M aqueous solution, 2.3 ml, 4.68 mmoles, 6 eq). The reaction mixture was heated at 100 degrees centigrade for 13 hours at which point, after cooling to room temperature, the reaction was partitioned between EtOAc and water. After separation of the phases the organic phase was washed with brine, dried over anhydrous sodium sulfate, filtered, concentrated in vacuo to yield after purification by silica gel chromatography (CH2Cl2 to 2% MeOH/CH2Cl2) 268 mg (80%) of product.

reactant | [4-(4-Bromobenzyl)-2-(4-{trifluoromethyl}phenyl)-1,3-thiazol-5-yl]methanol | 0.78 mmoles, 0.33 g, 1 eq | BrC1=CC=C(CC=2N=C(SC2CO)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C18H13BrF3NOS
reactant | Phenylboronic acid | 1.2 mmoles, 0.143 g, 1.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 4.68 mmoles, 2M, 2.3 ml, 6 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 0.16M, 5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphino) palladium | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | [4-([1,1′-Biphenyl]-4-ylmethyl)-2-(4-{trifluoromethyl}phenyl)-1,3-thiazol-5-yl]methanol | C1(=CC=C(C=C1)CC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C24H18F3NOS
